US08071778B2
4-(5-(((4-phenylpiperidin-4-yl)methoxy)methyl)pyridine-3yl)benzonitrile.
This compound was prepared according to the experimental condition of Example 1 method A from 3-bromo-5-(((4-phenylpiperidin-4-yl)methoxy)methyl)pyridine (75 mg, 0.16 mmoL), and 4-cyanobenzene boronic acid (90 mg, 0.64 mmol) to afford 50.0 mg (64%) of the desired compound as its TFA salt. 1H-NMR (CD3OD, 400 MHz) δ 8.99 (s, 1H), 8.52 (s, 1H), 8.25 (s, 1H), 7.92 (d, 2H, J=7.2 Hz), 7.83 (d, 2H, J=7.2 Hz), 7.21-7.46 (m, 5H), 4.64 (s, 2H), 3.58 (s, 2H), 3.32-3.60 (m, 2H), 2.89-2.96 (m, 2H), 2.51-2.56 (m, 2H), 2.21-2.22 (m, 2H). Mass spec.: 384.14 (MH)−.

reactant | 3-bromo-5-(((4-phenylpiperidin-4-yl)methoxy)methyl)pyridine | 75 mg | BrC=1C=NC=C(C1)COCC1(CCNCC1)C1=CC=CC=C1 | C18H21BrN2O
reactant | 4-cyanobenzene boronic acid | 0.64 mmol, 90 mg | C(#N)C1=CC=C(C=C1)B(O)O | C7H6BNO2
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | 4-(5-(((4-phenylpiperidin-4-yl)methoxy)methyl)pyridine-3yl)benzonitrile | 50.0 mg, 64% | C1(=CC=CC=C1)C1(CCNCC1)COCC=1C=C(C=NC1)C1=CC=C(C#N)C=C1 | C25H25N3O
